US08222273B2
Preparation of 2-[(2-hydroxyethyl)sulfanyl]benzaldehyde
To a slurry of potassium carbonate (362 g, 2.62 moles) in propionitrile (1000 ml) under nitrogen, was added 2-mercaptoethanol (184 ml, 2.618 moles) as a solution in propionitrile (750 ml). 2-Fluorobenzaldehyde (250 g, 2.014 moles) was added as a solution in propionitrile (750 ml) and heated at 85° C. for 18 hours. The reaction was cooled to 20° C. and sequentially washed with water (1500 ml), 1M sodium hydroxide solution (500 ml) and water (1000 ml). The final solution was dried by azeotropic distillation to leave the title compound as a clear, yellow solution in propionitrile (4250 ml). A small sample was concentrated for yield calculation (348.7 g, 95%).

reactant | potassium carbonate | 2.62 moles, 362 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-mercaptoethanol | 2.618 moles, 184 ml | SCCO | C2H6OS
reactant | 2-Fluorobenzaldehyde | 2.014 moles, 250 g | FC1=C(C=O)C=CC=C1 | C7H5FO
solvent | propionitrile | 1000 ml | C(CC)#N | C3H5N
solvent | propionitrile | 750 ml | C(CC)#N | C3H5N
solvent | propionitrile | 750 ml | C(CC)#N | C3H5N
product | 2-[(2-hydroxyethyl)sulfanyl]benzaldehyde | OCCSC1=C(C=O)C=CC=C1 | C9H10O2S
